US07432258B2
c) 4-[(2R)-2-(4-bromophenyl)-2-chloroethyl]morpholine
(1R)-1-(4-Bromophenyl)-2-(4-morpholinyl)ethanol (48.5 g, 0.17 mol) was dissolved in 200 mL CH2Cl2 at room temperature with magnetic stirring and triethylamine (52 mL. 0.37 mol, 2.2 equiv) was added. The resulting solution was cooled to 0° C. and treated with methanesulfonyl chloride (16 mL, 0.20 mol, 1.2 equiv) through an addition funnel. After the addition, the reaction mixture was maintained at 40° C. for 48 h with magnetic stirring. The reaction mixture was concentrated and the residue was partitioned between EtOAc and saturated aqueous NaHCO3. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated. The crude brown oil was purified by silica gel chromatography (800 g silica gel 60, 230-400 mesh, 5% EtOAc/CH2Cl2 as eluent). Concentration of the pure fractions yielded the title compound as a yellow oil (34.5 g, 67%). MS (ES) m/e 304 [M+H]−.

reactant | (1R)-1-(4-Bromophenyl)-2-(4-morpholinyl)ethanol | 0.17 mol, 48.5 g | BrC1=CC=C(C=C1)[C@H](CN1CCOCC1)O | C12H16BrNO2
reactant | triethylamine | 0.37 mol, 52 mL, 2.2 equiv | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.20 mol, 16 mL, 1.2 equiv | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-[(2R)-2-(4-bromophenyl)-2-chloroethyl]morpholine | 34.5 g, 67% | BrC1=CC=C(C=C1)[C@H](CN1CCOCC1)Cl | C12H15BrClNO
